US06403791B1
7-Bromo-4-methoxy-2-(piperidin-1-yl)-benzooxazole
Starting from 7-bromo-4-methoxy-2-methylsulfanylbenzooxazole (10.0 g) and piperidine (3.8 ml). Purification by chromatography on silica eluting with 30-100% ethyl acetate in hexane afforded the title compound as an off-white solid (10.7 g).

reactant | 7-bromo-4-methoxy-2-methylsulfanylbenzooxazole | 10.0 g | BrC1=CC=C(C=2N=C(OC21)SC)OC | C9H8BrNO2S
reactant | piperidine | 3.8 ml | N1CCCCC1 | C5H11N
product | 7-Bromo-4-methoxy-2-(piperidin-1-yl)-benzooxazole | 10.7 g | BrC1=CC=C(C=2N=C(OC21)N2CCCCC2)OC | C13H15BrN2O2
